* 230V to 5V async buck, 150W
* D=5/230=0.0217, t_on=217n, Rload=25/150=0.167
Vin in 0 230
M1 in gate sw 0 NMOS W=1 L=1
D1 0 sw DIODE
L1 sw out 22u
C1 out 0 470u
Rload out 0 0.167
Vgate gate 0 PULSE(0 12 0 1n 1n 217n 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1n 5m
.end
